US08138345B2
Preparation of {(R)-2-[3-(2-Aminoethyl)phenyl]-1-methylethyl}-((R)-1-phenylethyl)amine
To a stirred solution of {3-[(R)-2-((R)-1-phenylethylamino)propyl]phenyl}acetonitrile hydrochloride salt (2.00 g, 6.35 mmol) and cobalt(II) chloride hexahydrate (4.27 g, 18.0 mmol) in MeOH (40.0 mL) at 0° C. was added sodium tetrahydroborate (2.72 g, 71.8 mmol) portion-wise (reaction was exothermic). The reaction mixture was stirred for 1 h at room temperature and then concentrated aqueous hydrochloric acid was added and stirring was continued until the solid that had formed was broken-up. The mixture was then made basic by addition of aqueous sodium hydroxide (1 M). This mixture was filtered and the filtrate was extracted with DCM (50 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound, which as used in the next reaction without further purification.

reactant | {3-[(R)-2-((R)-1-phenylethylamino)propyl]phenyl}acetonitrile hydrochloride salt | 6.35 mmol, 2.00 g | Cl.C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC=1C=C(C=CC1)CC#N)C
reactant | sodium tetrahydroborate | 71.8 mmol, 2.72 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | MeOH | 40.0 mL | CO | CH4O
catalyst | cobalt(II) chloride hexahydrate | 18.0 mmol, 4.27 g | O.O.O.O.O.O.[Co](Cl)Cl
product | {(R)-2-[3-(2-Aminoethyl)phenyl]-1-methylethyl}-((R)-1-phenylethyl)amine | NCCC=1C=C(C=CC1)C[C@@H](C)N[C@H](C)C1=CC=CC=C1 | C19H26N2
